US06177459B1
27.8 g (0.1 mol) of 23% pure n-butyllithium are added dropwise within 15 minutes to a solution of 6.8 g (0.1 mol) of furan in 100 ml of diethyl ether which had been cooled to −20° C. The mixture was stirred at 20° C. for 2 hours, cooled once more to −20° C., and 14.8 g (0.05 mol) of N-[2-(2-methylphenoxymethyl)-benzoy]-pyrrolidine dissolved in 100 ml of diethyl ether are added dropwise within 15 minutes. After complete conversion (DC control), the mixture is poured into 300 ml of ice-cold ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. 13.1 g (89.7% of theory) of 2-[2-(2-methylphenoxymethyl)-benzoyl]-furan are obtained.

reactant | n-butyllithium | 0.1 mol, 27.8 g | C(CCC)[Li]
reactant | furan | 0.1 mol, 6.8 g | O1C=CC=C1 | C4H4O
reactant | N-[2-(2-methylphenoxymethyl)-benzoy]-pyrrolidine | 0.05 mol, 14.8 g | CC1=C(OCC2=C(C(=O)N3CCCC3)C=CC=C2)C=CC=C1 | C19H21NO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-[2-(2-methylphenoxymethyl)-benzoyl]-furan | 13.1 g, 89.7% | CC1=C(OCC2=C(C(=O)C=3OC=CC3)C=CC=C2)C=CC=C1 | C19H16O3
